US05593970
To a solution of methyl-3-(2'-formyl-3'-6'-dimethoxy)phenyl-2-methoxyisopropyloxy-propionate (4.2 g, 12.4 mmol) in THF (75 ml) containing water (4 ml) was added pyridinium p-toluenesulfonate (230 mg). After stirring at room temperature for 1.75 hours, triethylamine (3 ml) and saturated NH4Cl solution (60 ml) were added. THF was removed at 25° C. and the mixture was extracted with ether (3×150 ml). Ether extract was washed with brine, dried and evaporated yielding 3.9 g of 1-hydroxyisochroman (95%) (quite pure from NMR spectrum). (MP. 127°-129° C.)

reactant | water | 4 ml | O | H2O
reactant | pyridinium p-toluenesulfonate | 230 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | 60 ml | [NH4+].[Cl-]
reactant | THF | 75 ml | C1CCOC1 | C4H8O
product | 1-hydroxyisochroman | 3.9 g, 95% | OC1OCCC2=CC=CC=C12 | C9H10O2
